US08580841B2
Step D: Preparation of 4-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)aniline hydrochloride.
In a 2 L flask equipped with stirrer and thermocouple, was placed 1-cyclopentyl-4-((4-nitrophenoxy)methyl)-2-(trifluoromethyl)benzene (40 g, 109 mmol) in ACN (520 mL). Ammonium chloride (3M, 520 mL) was added and the mixture was stirred and cooled to 2.5° C. Zinc (35.8 g, 547 mmol) was added in portions keeping temperature below 5° C. After addition was completed, the reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was filtered through a bed of celite (50 g) and the filter bed was washed with ACN (150 mL). The aqueous layer of the filtrate was separated and back extracted with isopropyl acetate (200 mL). The combined organic layers were dried over sodium sulfate (50 g), filtered and concentrated. The residue was dissolved in ethanol (120 mL), added HCl (1.25 M in EtOH, 140 mL), and stirred at ambient for 2.5 hours. After removal of the solvent, the residual solids was triturated with ACN (120 mL), filtered, washed with ACN (2×50 mL), and dried under vacuum to give the title compound (29.8 g).

reactant | 1-cyclopentyl-4-((4-nitrophenoxy)methyl)-2-(trifluoromethyl)benzene | 109 mmol, 40 g | C1(CCCC1)C1=C(C=C(C=C1)COC1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C19H18F3NO3
reactant | Ammonium chloride | 3M, 520 mL | [Cl-].[NH4+]
solvent | ACN | 520 mL | C(C)#N | C2H3N
catalyst | Zinc | 547 mmol, 35.8 g | [Zn] | Zn
product | 4-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)aniline hydrochloride | 29.8 g | Cl.C1(CCCC1)C1=C(C=C(COC2=CC=C(N)C=C2)C=C1)C(F)(F)F | InChI=1S/C19H20F3NO.ClH/c20-19(21,22)18-11-13(5-10-17(18)14-3-1-2-4-14)12-24-16-8-6-15(23)7-9-16;/h5-11,14H,1-4,12,23H2;1H
